US09290504B2
To a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl chloride (1.688 mmol, 450 mg) in acetonitrile (24.8 mL) was added 2-amino-4-fluoropyridine (4.22 mmol, 473 mg). The reaction mixture was stirred at room temperature for 1.5 h. The reaction mixture was concentrated to a small volume, 3% aq. citric acid solution (18 mL) was added and the mixture was extracted with dichloromethane (2×15 mL). The combined organic layer was washed with 3% aq. citric acid solution, dried over magnesium sulfate, filtered and evaporated to afford 542.2 mg of N-(4-fluoropyridin-2-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (94%) as an off-white solid.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl chloride | 1.688 mmol, 450 mg | CC1(OB(OC1(C)C)C1=CC=C(C(=O)Cl)C=C1)C | C13H16BClO3
reactant | 2-amino-4-fluoropyridine | 4.22 mmol, 473 mg | NC1=NC=CC(=C1)F | C5H5FN2
solvent | acetonitrile | 24.8 mL | C(C)#N | C2H3N
product | N-(4-fluoropyridin-2-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 542.2 mg, 94% | FC1=CC(=NC=C1)NC(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C18H20BFN2O3
